* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.0003221723535132745
Fd1_1 0 s1 V1 0.016108617675663725
Gr1_1_1 0 s1 x1_a1 0 1.349054674584066e+17
Gr2_1_1 0 s1 x2_a1 0 -5.933636845866263e+17
Gr3_1_1 0 s1 x3_a1 0 -2.519863724350597e+17
Gr4_1_1 0 s1 x4_a1 0 6.350475498907272e+17
Gr5_1_1 0 s1 x5_a1 0 6.965228373352504e+17
Gr6_1_1 0 s1 x6_a1 0 -8.124136667502501e+17
Gr7_1_1 0 s1 x7_a1 0 2.1380499243446836e+16
Gr8_1_1 0 s1 x8_a1 0 -4.377853963504501e+16
Gr9_1_1 0 s1 x9_a1 0 -787465426993648.0
Gr10_1_1 0 s1 x10_a1 0 114124953112828.39
Gr11_re_1_1 0 s1 x11_re_a1 0 3300039767563.127
Gr11_im_1_1 0 s1 x11_im_a1 0 -16580742455689.357
Gr12_re_1_1 0 s1 x12_re_a1 0 -339384344856.3071
Gr12_im_1_1 0 s1 x12_im_a1 0 313223651630.562
Gr13_re_1_1 0 s1 x13_re_a1 0 685592576.567035
Gr13_im_1_1 0 s1 x13_im_a1 0 5012301405.880542
Gr14_re_1_1 0 s1 x14_re_a1 0 -1017785.9657538249
Gr14_im_1_1 0 s1 x14_im_a1 0 174033.22341186382
Gr15_re_1_1 0 s1 x15_re_a1 0 4226867940.302835
Gr15_im_1_1 0 s1 x15_im_a1 0 46115866005.036896
Gr16_re_1_1 0 s1 x16_re_a1 0 1336689138.6320667
Gr16_im_1_1 0 s1 x16_im_a1 0 366971897.7713279
Gr17_re_1_1 0 s1 x17_re_a1 0 -5142.3258537835445
Gr17_im_1_1 0 s1 x17_im_a1 0 -41301.123076154436
Gr18_re_1_1 0 s1 x18_re_a1 0 -183895623175.5836
Gr18_im_1_1 0 s1 x18_im_a1 0 30439067414.61941
Gr19_re_1_1 0 s1 x19_re_a1 0 175767638272.80417
Gr19_im_1_1 0 s1 x19_im_a1 0 -408289646888.36676
Gr20_1_1 0 s1 x20_a1 0 174844425528.5884
Gr21_re_1_1 0 s1 x21_re_a1 0 489462834.28324914
Gr21_im_1_1 0 s1 x21_im_a1 0 212991497.08711213
Gr22_re_1_1 0 s1 x22_re_a1 0 -27675817.591984164
Gr22_im_1_1 0 s1 x22_im_a1 0 38950242.74848095
Gr23_re_1_1 0 s1 x23_re_a1 0 -4046283.7706489214
Gr23_im_1_1 0 s1 x23_im_a1 0 2341585.715632809
Gr24_1_1 0 s1 x24_a1 0 -2749952.9435505634
Gd1_2 0 s1 p2 0 0.0013765385095335881
Fd1_2 0 s1 V2 0.06882692547667942
Gr1_1_2 0 s1 x1_a2 0 3.488708707251645e+18
Gr2_1_2 0 s1 x2_a2 0 -1.3646358402920137e+19
Gr3_1_2 0 s1 x3_a2 0 -6.14292313358765e+18
Gr4_1_2 0 s1 x4_a2 0 1.4745826157326539e+19
Gr5_1_2 0 s1 x5_a2 0 1.6485241454721583e+19
Gr6_1_2 0 s1 x6_a2 0 -1.9053209709301965e+19
Gr7_1_2 0 s1 x7_a2 0 6.112991998034409e+17
Gr8_1_2 0 s1 x8_a2 0 -1.1760243955112435e+18
Gr9_1_2 0 s1 x9_a2 0 -3.834674551509076e+16
Gr10_1_2 0 s1 x10_a2 0 1.1285198410790578e+16
Gr11_re_1_2 0 s1 x11_re_a2 0 384340950253430.5
Gr11_im_1_2 0 s1 x11_im_a2 0 -248294445299325.34
Gr12_re_1_2 0 s1 x12_re_a2 0 -10917718018744.064
Gr12_im_1_2 0 s1 x12_im_a2 0 -33199692033.838226
Gr13_re_1_2 0 s1 x13_re_a2 0 -77848535268.38779
Gr13_im_1_2 0 s1 x13_im_a2 0 91650842058.17332
Gr14_re_1_2 0 s1 x14_re_a2 0 28612254.36321256
Gr14_im_1_2 0 s1 x14_im_a2 0 -36146454.83758536
Gr15_re_1_2 0 s1 x15_re_a2 0 -702857083102.8992
Gr15_im_1_2 0 s1 x15_im_a2 0 937070814630.548
Gr16_re_1_2 0 s1 x16_re_a2 0 14514997208.836798
Gr16_im_1_2 0 s1 x16_im_a2 0 32397553758.829647
Gr17_re_1_2 0 s1 x17_re_a2 0 133642.10585395066
Gr17_im_1_2 0 s1 x17_im_a2 0 -194364.12464725872
Gr18_re_1_2 0 s1 x18_re_a2 0 -3654636621183.3584
Gr18_im_1_2 0 s1 x18_im_a2 0 -1813177430755.4045
Gr19_re_1_2 0 s1 x19_re_a2 0 4860592622175.288
Gr19_im_1_2 0 s1 x19_im_a2 0 -3239888682983.6455
Gr20_1_2 0 s1 x20_a2 0 1684197949257.3572
Gr21_re_1_2 0 s1 x21_re_a2 0 5570546443.761864
Gr21_im_1_2 0 s1 x21_im_a2 0 2831430045.897242
Gr22_re_1_2 0 s1 x22_re_a2 0 -438700740.91140085
Gr22_im_1_2 0 s1 x22_im_a2 0 489470262.4388948
Gr23_re_1_2 0 s1 x23_re_a2 0 -60861764.563890204
Gr23_im_1_2 0 s1 x23_im_a2 0 34372441.09584844
Gr24_1_2 0 s1 x24_a2 0 -32516887.127082802
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 6.747520576546205e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 6.609994891638789e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.3140246245030536e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.1869536771135577e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 6.548404065633829e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 5.892437600413135e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.8047454149768445e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.4672985515026958e-11
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 3.669063242047821e-11
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 4.703307402927022e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 7.117006828086341e-11
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 11946611017.674057
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -11946611017.674057
Rp11_im_im_a1 0 x11_im_a1 7.117006828086341e-11
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 1.4754533473994075e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 14238591436.876387
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -14238591436.876387
Rp12_im_im_a1 0 x12_im_a1 1.4754533473994075e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 3.8856316688028864e-10
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 14469501012.60281
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -14469501012.60281
Rp13_im_im_a1 0 x13_im_a1 3.8856316688028864e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 6.947705482669779e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 14108577268.860634
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -14108577268.860634
Rp14_im_im_a1 0 x14_im_a1 6.947705482669779e-09
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 2.3760560962553617e-10
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 12083657492.00261
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -12083657492.00261
Rp15_im_im_a1 0 x15_im_a1 2.3760560962553617e-10
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 5.088540713072077e-10
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 13569191644.069426
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -13569191644.069426
Rp16_im_im_a1 0 x16_im_a1 5.088540713072077e-10
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 7.99231460426701e-07
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 12579369379.54573
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -12579369379.54573
Rp17_im_im_a1 0 x17_im_a1 7.99231460426701e-07
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 1.7054796054686886e-10
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 9132673988.045652
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -9132673988.045652
Rp18_im_im_a1 0 x18_im_a1 1.7054796054686886e-10
Cx19_re_a1 x19_re_a1 0 1.0
Gx19_re_a1 0 x19_re_a1 p1 0 0.1414213562373095
Fx19_re_a1 0 x19_re_a1 V1 7.0710678118654755
Rp19_re_re_a1 0 x19_re_a1 1.4650378161915236e-10
Gp19_re_im_a1 0 x19_re_a1 x19_im_a1 0 4435567057.310095
Cx19_im_a1 x19_im_a1 0 1.0
Gp19_im_re_a1 0 x19_im_a1 x19_re_a1 0 -4435567057.310095
Rp19_im_im_a1 0 x19_im_a1 1.4650378161915236e-10
Cx20_a1 x20_a1 0 1.0
Gx20_a1 0 x20_a1 p1 0 0.07071067811865475
Fx20_a1 0 x20_a1 V1 3.5355339059327378
Rp20_a1 0 x20_a1 1.8316423638930915e-10
Cx21_re_a1 x21_re_a1 0 1.0
Gx21_re_a1 0 x21_re_a1 p1 0 0.1414213562373095
Fx21_re_a1 0 x21_re_a1 V1 7.0710678118654755
Rp21_re_re_a1 0 x21_re_a1 4.816086968238468e-10
Gp21_re_im_a1 0 x21_re_a1 x21_im_a1 0 2459757582.687943
Cx21_im_a1 x21_im_a1 0 1.0
Gp21_im_re_a1 0 x21_im_a1 x21_re_a1 0 -2459757582.687943
Rp21_im_im_a1 0 x21_im_a1 4.816086968238468e-10
Cx22_re_a1 x22_re_a1 0 1.0
Gx22_re_a1 0 x22_re_a1 p1 0 0.1414213562373095
Fx22_re_a1 0 x22_re_a1 V1 7.0710678118654755
Rp22_re_re_a1 0 x22_re_a1 1.1007493212139699e-09
Gp22_re_im_a1 0 x22_re_a1 x22_im_a1 0 997498705.2901851
Cx22_im_a1 x22_im_a1 0 1.0
Gp22_im_re_a1 0 x22_im_a1 x22_re_a1 0 -997498705.2901851
Rp22_im_im_a1 0 x22_im_a1 1.1007493212139699e-09
Cx23_re_a1 x23_re_a1 0 1.0
Gx23_re_a1 0 x23_re_a1 p1 0 0.1414213562373095
Fx23_re_a1 0 x23_re_a1 V1 7.0710678118654755
Rp23_re_re_a1 0 x23_re_a1 3.04213900236436e-09
Gp23_re_im_a1 0 x23_re_a1 x23_im_a1 0 434220569.45866823
Cx23_im_a1 x23_im_a1 0 1.0
Gp23_im_re_a1 0 x23_im_a1 x23_re_a1 0 -434220569.45866823
Rp23_im_im_a1 0 x23_im_a1 3.04213900236436e-09
Cx24_a1 x24_a1 0 1.0
Gx24_a1 0 x24_a1 p1 0 0.07071067811865475
Fx24_a1 0 x24_a1 V1 3.5355339059327378
Rp24_a1 0 x24_a1 9.480976607097036e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0013765385095335881
Fd2_1 0 s2 V1 0.06882692547667942
Gr1_2_1 0 s2 x1_a1 0 3.488708289659404e+18
Gr2_2_1 0 s2 x2_a1 0 -1.3646356063158176e+19
Gr3_2_1 0 s2 x3_a1 0 -6.142922243390312e+18
Gr4_2_1 0 s2 x4_a1 0 1.4745823694221326e+19
Gr5_2_1 0 s2 x5_a1 0 1.6485238846475401e+19
Gr6_2_1 0 s2 x6_a1 0 -1.9053206613438304e+19
Gr7_2_1 0 s2 x7_a1 0 6.112991569672984e+17
Gr8_2_1 0 s2 x8_a1 0 -1.176024278774778e+18
Gr9_2_1 0 s2 x9_a1 0 -3.834675197768701e+16
Gr10_2_1 0 s2 x10_a1 0 1.1285202795239514e+16
Gr11_re_2_1 0 s2 x11_re_a1 0 384341040698295.44
Gr11_im_2_1 0 s2 x11_im_a1 0 -248294209299687.84
Gr12_re_2_1 0 s2 x12_re_a1 0 -10917712281518.625
Gr12_im_2_1 0 s2 x12_im_a1 0 -33204092033.886814
Gr13_re_2_1 0 s2 x13_re_a1 0 -77848490017.5229
Gr13_im_2_1 0 s2 x13_im_a1 0 91650776253.33652
Gr14_re_2_1 0 s2 x14_re_a1 0 28612270.770025294
Gr14_im_2_1 0 s2 x14_im_a1 0 -36146470.798595905
Gr15_re_2_1 0 s2 x15_re_a1 0 -702856879132.275
Gr15_im_2_1 0 s2 x15_im_a1 0 937069716012.3064
Gr16_re_2_1 0 s2 x16_re_a1 0 14514987332.474611
Gr16_im_2_1 0 s2 x16_im_a1 0 32397527095.535355
Gr17_re_2_1 0 s2 x17_re_a1 0 133640.97174496995
Gr17_im_2_1 0 s2 x17_im_a1 0 -194364.94696164405
Gr18_re_2_1 0 s2 x18_re_a1 0 -3654632319985.7583
Gr18_im_2_1 0 s2 x18_im_a1 0 -1813179034322.6052
Gr19_re_2_1 0 s2 x19_re_a1 0 4860592259097.598
Gr19_im_2_1 0 s2 x19_im_a1 0 -3239879044882.6763
Gr20_2_1 0 s2 x20_a1 0 1684195341235.9807
Gr21_re_2_1 0 s2 x21_re_a1 0 5570542685.714131
Gr21_im_2_1 0 s2 x21_im_a1 0 2831434183.769782
Gr22_re_2_1 0 s2 x22_re_a1 0 -438700847.3004776
Gr22_im_2_1 0 s2 x22_im_a1 0 489470044.70396096
Gr23_re_2_1 0 s2 x23_re_a1 0 -60861816.733010195
Gr23_im_2_1 0 s2 x23_im_a1 0 34372432.65301695
Gr24_2_1 0 s2 x24_a1 0 -32516906.514411155
Gd2_2 0 s2 p2 0 0.00033541259129274994
Fd2_2 0 s2 V2 0.0167706295646375
Gr1_2_2 0 s2 x1_a2 0 1.6971586175026554e+17
Gr2_2_2 0 s2 x2_a2 0 -7.318079992878692e+17
Gr3_2_2 0 s2 x3_a2 0 -3.137818465566311e+17
Gr4_2_2 0 s2 x4_a2 0 7.844341336552429e+17
Gr5_2_2 0 s2 x5_a2 0 8.630636653214525e+17
Gr6_2_2 0 s2 x6_a2 0 -1.005155546791589e+18
Gr7_2_2 0 s2 x7_a2 0 2.7395953345379116e+16
Gr8_2_2 0 s2 x8_a2 0 -5.544853801429183e+16
Gr9_2_2 0 s2 x9_a2 0 -1142784017589404.5
Gr10_2_2 0 s2 x10_a2 0 213590768499571.22
Gr11_re_2_2 0 s2 x11_re_a2 0 6713247340470.857
Gr11_im_2_2 0 s2 x11_im_a2 0 -19401946708209.25
Gr12_re_2_2 0 s2 x12_re_a2 0 -448103581564.0347
Gr12_im_2_2 0 s2 x12_im_a2 0 324750474977.54425
Gr13_re_2_2 0 s2 x13_re_a2 0 -602913.4992765039
Gr13_im_2_2 0 s2 x13_im_a2 0 5958230070.097731
Gr14_re_2_2 0 s2 x14_re_a2 0 -761169.6796976944
Gr14_im_2_2 0 s2 x14_im_a2 0 -181963.29285056834
Gr15_re_2_2 0 s2 x15_re_a2 0 -2100614594.4232194
Gr15_im_2_2 0 s2 x15_im_a2 0 56234819493.34599
Gr16_re_2_2 0 s2 x16_re_a2 0 1494789597.4444618
Gr16_im_2_2 0 s2 x16_im_a2 0 677457963.9739171
Gr17_re_2_2 0 s2 x17_re_a2 0 -4395.107884609106
Gr17_im_2_2 0 s2 x17_im_a2 0 -43181.40875392242
Gr18_re_2_2 0 s2 x18_re_a2 0 -224214074504.07684
Gr18_im_2_2 0 s2 x18_im_a2 0 16108649453.315863
Gr19_re_2_2 0 s2 x19_re_a2 0 224724596313.9122
Gr19_im_2_2 0 s2 x19_im_a2 0 -454930263806.7576
Gr20_2_2 0 s2 x20_a2 0 197483556669.3132
Gr21_re_2_2 0 s2 x21_re_a2 0 552906312.2476835
Gr21_im_2_2 0 s2 x21_im_a2 0 256088667.65491983
Gr22_re_2_2 0 s2 x22_re_a2 0 -34463493.632080905
Gr22_im_2_2 0 s2 x22_im_a2 0 45519931.49343986
Gr23_re_2_2 0 s2 x23_re_a2 0 -5012428.3315215055
Gr23_im_2_2 0 s2 x23_im_a2 0 2920867.6552761504
Gr24_2_2 0 s2 x24_a2 0 -3046802.899558497
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 6.747520576546205e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 6.609994891638789e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.3140246245030536e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.1869536771135577e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 6.548404065633829e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 5.892437600413135e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.8047454149768445e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.4672985515026958e-11
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 3.669063242047821e-11
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 4.703307402927022e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 7.117006828086341e-11
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 11946611017.674057
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -11946611017.674057
Rp11_im_im_a2 0 x11_im_a2 7.117006828086341e-11
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 1.4754533473994075e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 14238591436.876387
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -14238591436.876387
Rp12_im_im_a2 0 x12_im_a2 1.4754533473994075e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 3.8856316688028864e-10
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 14469501012.60281
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -14469501012.60281
Rp13_im_im_a2 0 x13_im_a2 3.8856316688028864e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 6.947705482669779e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 14108577268.860634
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -14108577268.860634
Rp14_im_im_a2 0 x14_im_a2 6.947705482669779e-09
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 2.3760560962553617e-10
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 12083657492.00261
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -12083657492.00261
Rp15_im_im_a2 0 x15_im_a2 2.3760560962553617e-10
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 5.088540713072077e-10
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 13569191644.069426
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -13569191644.069426
Rp16_im_im_a2 0 x16_im_a2 5.088540713072077e-10
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 7.99231460426701e-07
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 12579369379.54573
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -12579369379.54573
Rp17_im_im_a2 0 x17_im_a2 7.99231460426701e-07
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 1.7054796054686886e-10
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 9132673988.045652
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -9132673988.045652
Rp18_im_im_a2 0 x18_im_a2 1.7054796054686886e-10
Cx19_re_a2 x19_re_a2 0 1.0
Gx19_re_a2 0 x19_re_a2 p2 0 0.1414213562373095
Fx19_re_a2 0 x19_re_a2 V2 7.0710678118654755
Rp19_re_re_a2 0 x19_re_a2 1.4650378161915236e-10
Gp19_re_im_a2 0 x19_re_a2 x19_im_a2 0 4435567057.310095
Cx19_im_a2 x19_im_a2 0 1.0
Gp19_im_re_a2 0 x19_im_a2 x19_re_a2 0 -4435567057.310095
Rp19_im_im_a2 0 x19_im_a2 1.4650378161915236e-10
Cx20_a2 x20_a2 0 1.0
Gx20_a2 0 x20_a2 p2 0 0.07071067811865475
Fx20_a2 0 x20_a2 V2 3.5355339059327378
Rp20_a2 0 x20_a2 1.8316423638930915e-10
Cx21_re_a2 x21_re_a2 0 1.0
Gx21_re_a2 0 x21_re_a2 p2 0 0.1414213562373095
Fx21_re_a2 0 x21_re_a2 V2 7.0710678118654755
Rp21_re_re_a2 0 x21_re_a2 4.816086968238468e-10
Gp21_re_im_a2 0 x21_re_a2 x21_im_a2 0 2459757582.687943
Cx21_im_a2 x21_im_a2 0 1.0
Gp21_im_re_a2 0 x21_im_a2 x21_re_a2 0 -2459757582.687943
Rp21_im_im_a2 0 x21_im_a2 4.816086968238468e-10
Cx22_re_a2 x22_re_a2 0 1.0
Gx22_re_a2 0 x22_re_a2 p2 0 0.1414213562373095
Fx22_re_a2 0 x22_re_a2 V2 7.0710678118654755
Rp22_re_re_a2 0 x22_re_a2 1.1007493212139699e-09
Gp22_re_im_a2 0 x22_re_a2 x22_im_a2 0 997498705.2901851
Cx22_im_a2 x22_im_a2 0 1.0
Gp22_im_re_a2 0 x22_im_a2 x22_re_a2 0 -997498705.2901851
Rp22_im_im_a2 0 x22_im_a2 1.1007493212139699e-09
Cx23_re_a2 x23_re_a2 0 1.0
Gx23_re_a2 0 x23_re_a2 p2 0 0.1414213562373095
Fx23_re_a2 0 x23_re_a2 V2 7.0710678118654755
Rp23_re_re_a2 0 x23_re_a2 3.04213900236436e-09
Gp23_re_im_a2 0 x23_re_a2 x23_im_a2 0 434220569.45866823
Cx23_im_a2 x23_im_a2 0 1.0
Gp23_im_re_a2 0 x23_im_a2 x23_re_a2 0 -434220569.45866823
Rp23_im_im_a2 0 x23_im_a2 3.04213900236436e-09
Cx24_a2 x24_a2 0 1.0
Gx24_a2 0 x24_a2 p2 0 0.07071067811865475
Fx24_a2 0 x24_a2 V2 3.5355339059327378
Rp24_a2 0 x24_a2 9.480976607097036e-09
.ENDS s_equivalent
